US07745392B2
Synthesis of S-(9H-Xanthen-9-yl)cysteine
A sample of 0.61 g of cysteine (5 mmole) was suspended in 100 ml of 1,2-dimethoxyethane and 2 ml of TFA. The suspension was stirred under nitrogen gas at room temperature until the solution became clear. To this clear solution was added 1 g of 9H-xanthen-9-ol (5.1 mmole) in one portion. The reaction mixture was stirred at room temperature for 30 minutes and was then neutralized to pH 7 by the addition of a saturated aqueous Na2CO3 solution. The mixture was then concentrated by rotary evaporation. The residue was diluted with 50 ml of water. The aqueous solution was treated with 10% aqueous citric acid solution to adjust the pH to 6. The mixture was stirred at room temperature for 1 hr. The resultant white solid was collected by filtration and was washed with 3×10 ml of water and 3×10 ml of ethyl acetate. The product was dried to yield 1.30 g of product.

reactant | cysteine | 5 mmole, 0.61 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | 9H-xanthen-9-ol | 5.1 mmole, 1 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)O | C13H10O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | S-(9H-Xanthen-9-yl)cysteine | 1.30 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)SC[C@H](N)C(=O)O | C16H15NO3S
